US04085141
57.7 g (0.25 mol) of 2,3,5,6-tetrachloroaniline, 250 ml of 36% strength aqueous solution of hydrochloric acid, 5 ml of concentrated sulphuric acid and 5 g of a 5% strength palladium/active charcoal catalyst are introduced into an 0.7 l autoclave made of tantalum. The autoclave is flushed first with nitrogen and then with hydrogen. The dechlorination is carried out over the course of 2 hours at 250° C and a hydrogen pressure of 200 atmospheres gauge. After the reaction, the catalyst is filtered off and washed twice with hot water. The reaction solution together with the wash water is rendered alkaline and warmed. After cooling, the reaction product is extracted twice with 150 ml of methylene chloride. After distilling off the methylene chloride, and subsequent fractional distillation, 36 g of 3,5-dichloroaniline (yield: 89% of theory) are obtained.

reactant | 2,3,5,6-tetrachloroaniline | 0.25 mol, 57.7 g | ClC1=C(N)C(=C(C=C1Cl)Cl)Cl | C6H3Cl4N
reactant | hydrochloric acid | Cl | ClH
reactant | sulphuric acid | 5 ml | S(O)(O)(=O)=O | H2O4S
catalyst | palladium | [Pd] | Pd
catalyst | tantalum | [Ta] | Ta
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 3,5-dichloroaniline | 36 g, yield: 89% | ClC=1C=C(N)C=C(C1)Cl | C6H5Cl2N
